US07671043B2
13B. N′-Hydroxy-3-(hydroxymethyl)benzenecarboximidamide
Hydroxyl amine hydrochloride (2.29 g, 32.9 mmol) and sodium bicarbonate (5.52 g, 65.8 mmol) were added to 3-(hydroxymethyl)benzonitrile (2.19 g, 16.4 mmol) and methanol (30 mL) and stirred at reflux for 18 hours. The reaction mixture was cooled to ambient temperature and filtered. The filtrate was concentrated in vacuo to give the title compound (2.88 g, 100% yield) as a solid.

reactant | Hydroxyl amine hydrochloride | 32.9 mmol, 2.29 g | Cl.ON
reactant | sodium bicarbonate | 65.8 mmol, 5.52 g | C([O-])(O)=O.[Na+]
reactant | 3-(hydroxymethyl)benzonitrile | 16.4 mmol, 2.19 g | OCC=1C=C(C#N)C=CC1 | C8H7NO
solvent | methanol | 30 mL | CO | CH4O
product | N′-Hydroxy-3-(hydroxymethyl)benzenecarboximidamide | 2.88 g, 100% yield | ON=C(N)C1=CC(=CC=C1)CO | C8H10N2O2
